US05420280
4-Methoxymethyl-4-(N-phenylamino)-1-(2-phenylethyl)piperidine
To a stirred mixture of 4-(N-phenylamino)-1-(2-phenylethyl)-4-piperidinylmethanol (0.100 g) and silica (0.5 g) in ether (5 ml) at room temperature was added an excess of ethereal diazomethane, and the mixture stirred at room temperature until no more colour remained. The reaction mixture was filtered and the filtrate concentrated to give an oil. Purification on silica gel using chloroform-methanol 38:1 as eluant gave the title compound (0.052 g).

reactant | 4-(N-phenylamino)-1-(2-phenylethyl)-4-piperidinylmethanol | 0.100 g | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)CO | C20H26N2O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-Methoxymethyl-4-(N-phenylamino)-1-(2-phenylethyl)piperidine | 0.052 g | COCC1(CCN(CC1)CCC1=CC=CC=C1)NC1=CC=CC=C1 | C21H28N2O
